US06051712
In an analogous manner to that described under Example 24(l), from tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate and 4-(2-trimethylsilanyl-ethoxymethoxy)-benzoic acid using N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDC) as the condensation agent there was obtained tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-[2-[4-(2-trimethylsilanyl-ethoxymethoxy)-benzoyloxy]-ethoxy]-phenyl]-piperidine-1-carboxylate as a colourless, amorphous solid; MS: 728 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | OCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C29H35NO5
reactant | 4-(2-trimethylsilanyl-ethoxymethoxy)-benzoic acid | C[Si](CCOCOC1=CC=C(C(=O)O)C=C1)(C)C | C13H20O4Si
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-[2-[4-(2-trimethylsilanyl-ethoxymethoxy)-benzoyloxy]-ethoxy]-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCOC(C1=CC=C(C=C1)OCOCC[Si](C)(C)C)=O)C(=O)OC(C)(C)C | C42H53NO8Si
